US06984649B1
To a stirred solution of 1-(2,6-dihydroxyphenyl)ethanone (50.0 g, 328 mmol) in acetone (1000 mL) was added potassium carbonate (227 g, 1643 mmol) and (bromomethyl)cyclopropane (35.1 mL, 361 mmol). The mixture was stirred at 50° C. for 2 days. The reaction mixture was filtrated on Celite®, and then the filtrate was concentrated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate. The separated organic phase was washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was suspended in hexane. Then the suspension was stirred at 80° C. for 30 min. The solution was filtered and the filtrate was allowed to cool to room temperature. The resulting white solid was collected by filtration, washed with hexane, and dried under reduced pressure to give 1-{2-[(cyclopropylmethyl)oxy]-6-hydroxyphenyl}ethanone as a pale yellow solid (56.3 g, yield; 83%).

reactant | 1-(2,6-dihydroxyphenyl)ethanone | 328 mmol, 50.0 g | OC1=C(C(=CC=C1)O)C(C)=O | C8H8O3
reactant | potassium carbonate | 1643 mmol, 227 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 361 mmol, 35.1 mL | BrCC1CC1 | C4H7Br
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
product | 1-{2-[(cyclopropylmethyl)oxy]-6-hydroxyphenyl}ethanone | 56.3 g, yield; 83% | C1(CC1)COC1=C(C(=CC=C1)O)C(C)=O | C12H14O3
